US04544745
cis-1,2,3,4,4a,9b-Hexahydro-4a-(4-hydroxyphenyl)-2-methyl-benzofuro[3,2-c]-pyridine
A mixture of 3.46 g of cis-1,2,3,4,4a,9b-hexahydro-4a-(4-methoxyphenyl)-2-methyl-benzofuro[3,2-c]pyridine and 3.57 g of lithium thiomethoxide in 30 ml of dry hexamethylphosphoramide was heated under a drying tube at 140° for 41/2 hours. The reaction mixture was diluted with 350 ml of water, and the pH was adjusted to 7 by slow addition of 2N HCl with stirring. As the pH reached neutral, the product precipitated out. The mixture was cooled to 0° and stirred for 30 minutes. The precipitated material was filtered, washed with water and then with a small amount of ether, and dried to give 2.77 g (84.2%) of crystalline solid, m.p. s 209, 215°-217°. Recrystallization from ethanol afforded 2.33 g (70.8%) of crystals, m.p. s 215, 222°-224°.

reactant | cis-1,2,3,4,4a,9b-hexahydro-4a-(4-methoxyphenyl)-2-methyl-benzofuro[3,2-c]pyridine | 3.46 g | COC1=CC=C(C=C1)[C@@]12[C@@H](CN(CC1)C)C1=C(O2)C=CC=C1 | C19H21NO2
reactant | lithium thiomethoxide | 3.57 g | C[S-].[Li+]
reactant | HCl | 2N | Cl | ClH
solvent | hexamethylphosphoramide | 30 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 350 ml | O | H2O
product | cis-1,2,3,4,4a,9b-Hexahydro-4a-(4-hydroxyphenyl)-2-methyl-benzofuro[3,2-c]-pyridine | 2.77 g, 84.2% | OC1=CC=C(C=C1)[C@@]12[C@@H](CN(CC1)C)C1=C(O2)C=CC=C1 | C18H19NO2
